US06953793B2
C. 3-(4-Bromo-phenyl)-5-methanesulfonyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine.
To a stirred solution of 3.11 g (11.1 mmol) of 3-(4-bromophenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridinium trifluoroacetate and 4.71 mL (33.5 mmol) of Et3N in DMF (55 mL) was slowly added 1.21 mL (15.6 mmol) of methanesulfonyl chloride. After 2.5 h, the solvent was removed under reduced pressure and the residue was diluted with CH2Cl2 (100 mL) and saturated NaHCO3 (100 mL). The layers were separated and the aqueous phase was extracted with CH2Cl2 (2×30 mL). The combined organic layers were dried over Na2SO4 and the solvent was removed under reduced pressure. Purification by column chromatography (silica, 0-5% MeOH/CH2Cl2) afforded 2.01 g (50%) of the title compound. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.3. MS (electrospray): m/z calculated for C13H14BrN3O2S [M++H] 356.00, observed 356.0.

reactant | 3-(4-bromophenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridinium trifluoroacetate | 11.1 mmol, 3.11 g | FC(C(=O)[O-])(F)F.BrC1=CC=C(C=C1)C1=N[NH2+]C2=C1CNCC2
reactant | Et3N | 33.5 mmol, 4.71 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15.6 mmol, 1.21 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
product | 3-(4-Bromo-phenyl)-5-methanesulfonyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 2.01 g, 50% | BrC1=CC=C(C=C1)C1=NNC2=C1CN(CC2)S(=O)(=O)C | C13H14BrN3O2S
